US08445510B2
3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-5-[5-methyl-1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine
A mixture of tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate (60.0 mg, 0.115 mmol), tert-butyl 4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate (58.73 mg, 0.1501 mmol), Pd(PPh3)4 (6.670 mg, 0.005772 mmol), potassium fluoride (20.12 mg, 0.3463 mmol) and 4:1 dioxane:H2O (3 mL, 30 mmol) was heated in a microwave reactor at 100° C. for 30 min. 12 M of HCl in H2O (0.19 mL, 2.3 mmol) was added, and the solution was heated to 30° C. overnight. The organic solvent was removed in vacuo, and the material was extracted with DCM and sat. NaHCO3. The organic layer was concentrated in vacuo and purified via column chromatography, eluting with 3-8% (7N NH3 in MeOH)/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as white solid. 1H NMR (400 MHz, CD3OD): δ=1.84 (d, J=7.3 Hz, 3H), 1.87-1.96 (m, 2H), 2.00-2.12 (m, 2H), 2.23 (s, 3H), 2.72-2.82 (m, 2H), 3.15-3.23 (m, 2H), 4.31 (tt, J=11.6, 3.9 Hz, 1H), 5.11 (q, J=7.3 Hz, 1H), 6.43 (br. s., 1H), 7.12 (dd, J=9.0, 4.7 Hz, 1H), 7.18 (t, J=8.7 Hz, 1H), 7.38 (d, J=1.8 Hz, 1H), 7.39 (d, J=1.3 Hz, 1H), 7.48 (s, 1H), 8.13 (d, J=2.0 Hz, 1H). MS (ES+): m/z=504.15/506.16 (100/50) [MH+]. HPLC: tR=1.15 min (polar—3 min, UPLC-ACQUITY).

reactant | tert-butyl 5-bromo-3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridine-1-carboxylate | 0.115 mmol, 60.0 mg | BrC=1C=C2C(=NC1)N(C=C2[C@H](C)C2=C(C(=CC=C2OC(F)F)F)Cl)C(=O)OC(C)(C)C | C21H19BrClF3N2O3
reactant | tert-butyl 4-[5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]piperidine-1-carboxylate | 0.1501 mmol, 58.73 mg | CC1=C(C=NN1C1CCN(CC1)C(=O)OC(C)(C)C)B1OC(C(O1)(C)C)(C)C | C20H34BN3O4
reactant | potassium fluoride | 0.3463 mmol, 20.12 mg | [F-].[K+]
reactant | H2O | 30 mmol, 3 mL | O | H2O
reactant | HCl | 12 M | Cl | ClH
reactant | H2O | 2.3 mmol, 0.19 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.005772 mmol, 6.670 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-5-[5-methyl-1-(piperidin-4-yl)-1H-pyrazol-4-yl]-1H-pyrrolo[2,3-b]pyridine | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCNCC2 | C25H25ClF3N5O
